US09315507B2
2-(4-(Adamantan-1-yl)phenoxy)-1-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)ethanone (I-39)
The title compound was prepared from 2-(4-(adamantan-1-yl)phenoxy)acetic acid (0.08 g, 0.27 mmol) and 3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine (0.053 g, 0.27 mmol) according to the example 1, which was given 2-(4-(adamantan-1-yl)phenoxy)-1-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)ethanone as a white solid (0.10 g, 78.1% yield).

reactant | 2-(4-(adamantan-1-yl)phenoxy)acetic acid | 0.27 mmol, 0.08 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)O)C=C2 | C18H22O3
reactant | 3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | 0.27 mmol, 0.053 g | FC(C1=NN=C2N1CCNC2)(F)F | C6H7F3N4
product | 2-(4-(adamantan-1-yl)phenoxy)-1-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)ethanone | 0.10 g, 78.1% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCC(=O)N3CC=1N(CC3)C(=NN1)C(F)(F)F)C=C2 | C24H27F3N4O2
